US06462038B1
A suspension of 3,4-difluoronitrobenzene (1.57 g, 9.8 mmol), (R)-2-pyrrolidinemethanol (1.0 g, 9.8 mmol) and K2CO3 (1.36 g, 9.8 mmol) in 30 mL DMF was heated at 75° C. for 20 h, whereupon the mixture was partitioned between water (100 mL) and EtOAc (100 mL). The aqueous layer was extracted with EtOAc (100 mL), and the combined organic layers washed with brine, dried over Na2SO4, filtered, and concentrated. Flash chromatography (19:1 CH2Cl2:MeOH) afforded 2.27 g (96%) of (R)-[l-(2-fluoro-4-nitrophenyl)-2-pyrrolidinyl]-methanol, an orange solid. Data for (R)-[1-(2-fluoro-4-nitrophenyl)-2-pyrrolidinyl]-methanol: Rf 0.17 (7:3 hexanes:EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.94 (dd, 1H, J=9.1, 2.6), 7.89 (dd, 1H, J=14.4, 2.6), 6.68 (t, 1H, J=9.0), 4.25-4.32 (m, 1H), 3.60-3.75 (m, 3H), 3.40-3.50 (m, 1H), 1.95-2.15 (m, 4H), 1.43 (t, 1H, J=5.8).

reactant | 3,4-difluoronitrobenzene | 9.8 mmol, 1.57 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | (R)-2-pyrrolidinemethanol | 9.8 mmol, 1.0 g | N1[C@H](CCC1)CO | C5H11NO
reactant | K2CO3 | 9.8 mmol, 1.36 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (R)-[l-(2-fluoro-4-nitrophenyl)-2-pyrrolidinyl]-methanol | 2.27 g, 96% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CCC1)CO | C11H13FN2O3
